US06649648B1
Resorcinol (29 mmol) and 4 hydroxyphenyl acetic acid (29 mmol) were dissolved into freshly distilled borontrifluoride etherate (20 mol eq) under nitrogen. The resulting mixture was stirred and heated at 70° C. for overnight. The reaction was monitored by TLC(80% Et2O/Hexane). The resulting mixture was cooled down at room temperature, then N,N-dimthylformamide (46.2 mL) was added dropwise. The mixture was again heated up at 50° C. for 30 minutes, then methanesulphonyl chloride (7 mL in 10 mL DMF) was added dropwise and the resulting mixture was heated at 60-70° C. until LC (80% Et2O/Hexane) shown that the reaction was almost finished, about 10 hours. After cooling down at room temperature, the mixture was poured into 400 mL ice-cold water. The precipitate was filtered. The filtrate was collected and dried. The cure product was recrystallised in 94% ethanol (aq) and gave a quite pure daidzein (3 g) in 44% yield.

reactant | Resorcinol | 29 mmol | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | hydroxyphenyl acetic acid | 29 mmol | OC(C(=O)O)C1=CC=CC=C1 | C8H8O3
reactant | borontrifluoride etherate | 20 mol | B(F)(F)F.CCOCC
reactant | methanesulphonyl chloride | 7 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | Et2O Hexane | CCOCC.CCCCCC
product | daidzein | 3 g, 44% yield | C1=CC(=CC=C1C2=COC=3C=C(C=CC3C2=O)O)O | C15H10O4
